US06251926B1
Lithium hydroxide monohydrate (177 mg) was added to a solution of ethyl E-6-[4-[5-methyl-2-(2-thienyl)-4-oxazolylmethoxy]benzyloxyimino]-6-phenylhexanoate (747 mg) in tetrahydrofuran (6 ml)-water (4 ml)-ethanol (4 ml) and stirred at room temperature for 4 hours. 1N hydrochloric acid (4.3 ml) was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was recrystallized from ethyl acetate-hexane to obtain E-6-[4-[5-methyl-2-(2-thienyl)-4-oxazolylmethoxy]benzyloxyimino]-6-phenylhexanoic acid (653 mg, yield 92%) as colorless crystals. m.p. 101-102° C.

reactant | Lithium hydroxide monohydrate | 177 mg | O.[OH-].[Li+]
reactant | ethyl E-6-[4-[5-methyl-2-(2-thienyl)-4-oxazolylmethoxy]benzyloxyimino]-6-phenylhexanoate | 747 mg | CC1=C(N=C(O1)C=1SC=CC1)COC1=CC=C(CO\N=C(/CCCCC(=O)OCC)\C2=CC=CC=C2)C=C1 | C30H32N2O5S
reactant | water | 4 ml | O | H2O
reactant | hydrochloric acid | 1N, 4.3 ml | Cl | ClH
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | E-6-[4-[5-methyl-2-(2-thienyl)-4-oxazolylmethoxy]benzyloxyimino]-6-phenylhexanoic acid | 653 mg, yield 92% | CC1=C(N=C(O1)C=1SC=CC1)COC1=CC=C(CO\N=C(/CCCCC(=O)O)\C2=CC=CC=C2)C=C1 | C28H28N2O5S
